Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Crestor / prochlorperazine
 
Attending: ___.
 
Chief Complaint:
Fevers / Arthralgias  

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F w/PMHx of DM2, GERD, and bell's palsy ___ referred from 
rheumatologist for polyarticular symptoms x 2 months with 
on-and-off fevers of 101. She reports intermittent joint pains 
involving her hip, knees, shoulders, and elbows for past 2 
months. The joint pains tend to start at night and can last for 
up to ___ days at a time and then will resolve. She reports 
associated joint stiffness which does not improve with movement. 
She denies joint swelling, or erythema but does reports her 
joints will feel warm. She was started on gabapentin 2 months 
ago, which initially helped the pain. This was recently 
discontinued due to continued symptoms. She has not taken 
steroids. She denies any recent travel (last time to ___ was ___ 
years ago). Denies any travel to rural areas. No specific sick 
contacts. Denies tick exposure, or rashes.  

She was admitted to ___ in ___ x3 days for "2 
weeks of facial swelling," sore throat + fever, given augmentin, 
improved but unclear if augmentin helped. In early ___ pt was 
admitted to ___ w/left lat chest pain, left lower back pain, 
high ESR/platelets/WBC; had MRI head and CT chest which were 
"normal" and she was d/c w/"no diagnosis" and a muscle relaxant. 
She was seen in urgent care on ___ for neck pain and swelling; 
had CT scan that showed markedly enlarged thyroid and narrowing 
of her airway as a result with tonsillar prominence.  

Pt is also reports 3 days of diffuse neck pain, difficulty 
breathing when lying on R side w/ feeling of throat impingement, 
and R lower back / hip pain that radiates down leg. Denies IVDU, 
difficulty w/ bowel or bladder control, or saddle anesthesia.  
 
In the ED, initial vitals were: 96.9 93 120/89 18 100% RA  
Labs notable for  
-CRP: 19.1  
-9.5>10.1/31.9<351  
-Negative urine hCG  
-Negative U/A  
-Normal LFTs, normal BMP  
-proBNP: 25  
-TSH wnl
-Lactate:1.7  
Blood cx pending  
Imaging: -U/S LLE ___ left hip effusion, CT neck: no 
evidence of retropharyngeal abscess, hypertrophy, hypertrophy of 
the lingual tonsils, hypertrophy of the thyroid possibly 
reflecting thyroiditis; hip xray - no fracture or dislocation ; 
-T-spine: no definite acute fracture; lumbosacral spine: no 
definite acute fracture; -CXR: Subtle nodular opacity projecting 
over the left upper and lower lobes as well as possibly over the 
right upper lung are nonspecific and not well assessed on this 
study. No prior available for comparison, no radiographic 
evidence of hilar or mediastinal lymphadenopathy.  
-Patient was given, 1L NS and 5 mg morphine; decision was made 
to admit for further evaluation.  

Upon arrival to the floor, VS 98.7, 114/71, HR 104, RR 18, 97% 
RA. No overnight events. On ___, patient reports ongoing joint 
pains esp in the neck and R hip.  Adds that she had neuropathy 
and underwent w/u at ___ where she wouldn't be able to feel her 
feet sometimes. Sometimes has sharp shooting pain from buttock 
down the R leg. Has tried ___ ibuprofen TID or QID for past 
few weeks to no avail. Denies joint stiffness that persists in 
the AM. No recent dental work other than dental cleaning 1mo 
ago, but her fevers/arthralgias had started prior to that. 
Underwent menopause almost ___ years ago. Mood and interest in 
hobbies has been good. When lying on side, sometimes feels 
heaviness in throat and SOB; anterior neck also tender. Recently 
tried gabapentin but made her too drowsy; this was started after 
her Sx onset; recently was switched to glipizide, which was 
started before her Sx onset. Amitryptyline 10mg qHS started 
recently to help her sleep and with anxiety.  No sick contacts. 
Denies soaking night sweats, productive cough; had PPD placed 
for her job years ago, does not remember ever having to take a 
pill for months afterwards. Denies any pruritus or rashes 
recently. 

 
Past Medical History:
- DMII  
- Bell's palsy  
- (+) PPD s/p INH course  
- h/o Pituitary adenoma  
- ANEMIA, UNSPEC  
- Esophageal reflux  
- Diabetes mellitus type 2  
- Thyromegaly  
- ___ 

 
Social History:
___
Family History:
HTN, father passed away due to neurologic illness of unknown 
type 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: 98.0 110/75 HR 98 RR 18 95% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Appears like R side of anterior neck swollen compared to 
L. No LAD appreciated but has tenderness to palpation esp on L 
side of throat. No overt thyroid nodules palpated.
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no edema
MSK: pain upon palpation at right hip, left elbow - pain with 
passive and active motion. Very tender even to very mild touch 
on paraspinal muscles, shoulders/trap muscles, SCM mm; 
tenderness on C and T spine midline. Cannot turn head laterally 
fully; worse on turning to L. No joint effusions noted.
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, sensation and proprioception grossly 
intact.  
Skin: no primary lesions; no nailfold changes or cuticular 
fraying. 
.
DISCHARGE PHYSICAL EXAM:  
Vitals: 97.8  101/64 HR 88 RR 16 97% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Appears like R side of anterior neck swollen compared to 
L. No LAD appreciated but has tenderness to palpation esp on L 
side of throat. No overt thyroid nodules palpated.
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no edema
MSK: pain upon palpation at L posterior thigh, very tender even 
to very mild touch on paraspinal muscles, shoulders/trap 
muscles. 
Tenderness on C and T spine midline. Cannot turn head laterally 
fully; worse on turning to L. No joint effusions noted.
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, sensation and proprioception grossly 
intact.  
Skin: no primary lesions; no nailfold changes or cuticular 
fraying. 

 
Pertinent Results:
AT___ LABS:  
-TSH ___: 0.83 (rr0.28-4.10)  
-Thyroid peroxidase ab 28 (rr0-35 IU/ml)  
-Thyroglobulin ab < 20.0 (rr ___ IU/ml)  
-BCx ___ - negative  
-Rheumatoid factor ___ <30 (rr < 30)  
-___ screen ___ negative  
-H pylori ab ___ (rr < 0.9)  
-IgG subclasses pending
-___ Lyme Ab negative
-BWH CRP ___ was 11.3, ESR 65

IMAGING:
-U/S LLE ___ left hip effusion  
 
-CT Neck w/contrast (___):  
1. No evidence for retropharyngeal abscess.  
2. Hypertrophy of the lingual tonsils.  
3. Hypertrophy of the thyroid possibly reflecting thyroiditis.  
4. No fracture.  
 
-Hip unilateral xray: IMPRESSION: No acute fracture or 
dislocation seen  
 
-CT T-spine: The very superior thoracic vertebral bodies are not 
well assessed on the lateral view of the thoracic spine due to 
overlapping structures. Given this, vertebral body heights of 
the thoracolumbar spine are grossly maintained, without definite 
acute fracture. If high clinical concern for acute thoracolumbar 
spine injury or other acute process, cross-sectional imaging is 
more sensitive.  
 -Lumbosacral spine: The very superior thoracic vertebral bodies 
are not well assessed on the lateral view of the thoracic spine 
due to overlapping structures. Given this, vertebral body 
heights of the thoracolumbar spine are grossly maintained, 
without definite acute fracture. If high clinical concern for 
acute thoracolumbar spine injury or other acute process, 
cross-sectional imaging is more sensitive.  

-CXR: Subtle nodular opacity projecting over the left upper and 
lower lobes as well as possibly over the right upper lung are 
nonspecific and not well assessed on this study. No prior 
available for comparison. Recommend comparison with prior 
radiographs, if available, if not, chest CT for further 
evaluation for underlying pulmonary nodule. No definite focal 
consolidation. No radiographic evidence of hilar or mediastinal 
lymphadenopathy.  

OSH IMAGING:  
Lumbar spine xray ___:  
FINDINGS:  
The height and posterior alignment of vertebral bodies is 
preserved. There aresmall marginal osteophytes at L3-L4. There 
is no significant disc spacenarrowing. There is no compression 
fracture, spondylolysis or spondylolisthesis.  
The pedicles and SI joints are preserved.  
IMPRESSION:  
Mild degenerative spurring L3-L4.  

BRAIN MRI ___:  
IMPRESSION:  
 1. No abnormality of significance or clear etiology for the 
patient's symptoms is present.  
2. Note is again made of a small development venous anomaly 
without cavernoma in the left cerebellar hemisphere.  

Maxilofacial CT ___:  
IMPRESSION:1. There is minimal soft tissue thickening in the 
right maxillary sinus. The paranasal sinuses are otherwise clear 
 
2. No paranasal sinus air-fluid level is seen  

___ CT Face (Sinus) w/o contrast:
No significant abnormalities identified; no e/o acute or chronic 
sinusitis

___ Renal US ___
No significant abnormality seen

Thyroid US ___
IMPRESSION:   
1. Enlarged mildly heterogeneous thyroid gland displays normal 
vascularity. 
2. At least two (2) small spongiform nodules measuring up to 0.6 
cm without worrisome features.  Recommend followup, as below. 
RECOMMENDATION(S):  ___ year followup thyroid ultrasound. 

Chest CT ___
IMPRESSION:    
Enlarged thyroid please correlate with concurrent thyroid 
ultrasound 
Multifocal platelike atelectasis in the lower lobes, right 
middle lobe and lingula with no central obstructing lesions 
identified.  No worrisome lung nodules. 

 
Brief Hospital Course:
___ F w/PMHx of DM2, GERD, +PPD s/p treatment with INH (___), 
___ syd, and bell's palsy ___ referred from ___ 
rheumatologist for intermitten polyarthralgias, muscle aches, 
and intermittent fevers x 2 months, and neck swelling with 
thryomegaly.  

# Polyarthralgias / Fevers at home: intermittent fevers at home, 
polyarthralgias with elevated inflammatory markers of unclear 
etiology. Patient has undergone multiple imaging studies at 
outside hospitals with only finding thus far being some sinus 
inflammation as well as thyromegaly. Per rheumatology, there was 
no overt autoinflammatory process identified; fibromyalgia was a 
consideration given her point tenderness, but pt does have 
elevated CRP/ESR. Labs screening for rheum illness including 
___, rheumatoid factor negative earlier this month; CK was not 
elevated. TSH was wnl, and thyroid peroxidase / thyroglobulin ab 
were negative on ___. Lyme negative. CT chest did not find any 
acute findings other than some atelectasis. Rheumatology had 
discussed possibility of empiric steroid trial for atypical PMR, 
if rest of infectious w/u returns unremarkable; pt was 
apprehensive about steroids given her DM and bad experience with 
steroids in the past when she had bell's palsy; this can be 
determined once w/u returns and pt has f/u with outpt 
rheumatologist. 
Pending studies at time of discharge include:
- aldolase, brucella Ab and blood Cx, SPEP, quantiferon gold, 
free T4

#Thyromegaly concerning for possibly thyroiditis, but normal 
TFTs; will confirm nl TSH with free T4. Thyroid US had no acute 
findings, but recommended f/u thyroid US in ___ years. 

# Pt has known h/o small development venous anomaly without 
cavernoma in the left cerebellar hemisphere, known to her ___ 
providers. 

# Diabetes: hold home metformin, glipizide, januvia. Pt was on 
HISS while inhouse, diabetic diet  

# Insomnia: continued home amitriptyline 

# GERD: nexium non-formulary, was given prilosec while in house  


# RHMC:  
- colonoscopy ___ - normal, repeat ___ recommended in ___ years 
 
- mammogram ___: IMPRESSION: Stable indeterminant but likely 
benign microcalcifications right breast. BIRADS: 3 - PROBABLY 
BENIGN FINDING  

TRANSITIONAL ISSUES:
-Pending studies at time of discharge include: Aldolase, 
brucella Ab and blood Cx, SPEP, quantiferon gold, free T4
-Pt needs followup thyroid US in ~___ for f/u of two 
small spongifirom nodules. 
-Pt to have outpt PCP and rheumatology followup.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 10 mg PO QHS 
2. Methocarbamol 500 mg PO Q6H:PRN muscle spasm 
3. GlipiZIDE XL 2.5 mg PO DAILY 
4. NexIUM (esomeprazole magnesium) 20 mg oral DAILY 
5. Vitamin D ___ UNIT PO 1X/WEEK (MO) 
6. Januvia (sitaGLIPtin) 100 mg oral DAILY 
7. MetFORMIN (Glucophage) 1000 mg PO BID 

 
Discharge Medications:
1. Amitriptyline 10 mg PO QHS 
2. Vitamin D ___ UNIT PO 1X/WEEK (MO) 
3. GlipiZIDE XL 2.5 mg PO DAILY 
4. Januvia (sitaGLIPtin) 100 mg oral DAILY 
5. MetFORMIN (Glucophage) 1000 mg PO BID 
6. Methocarbamol 500 mg PO Q6H:PRN muscle spasm 
7. NexIUM (esomeprazole magnesium) 20 mg oral DAILY 
8. TraMADOL (Ultram) 12.5-25 mg PO Q6H:PRN pain Duration: 5 Days 

RX *tramadol 50 mg ___ tablet(s) by mouth q6hr Disp #*6 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Polyarthralgias

Secondary:
Enlarged Thyroid
Diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege providing care for you at ___. You were 
admitted with about 2 months of fevers and joint and muscle 
pains. You were seen by the rheumatology team, and received 
multiple blood tests and scans. While the underlying reason for 
your symptoms is still not certain, you were clinically stable 
and you did not have emergent findings on your tests. You should 
follow up with your doctors as listed below.

We wish you all the best,
Your ___ Team
 
Followup Instructions:
___